US04298529
7-Amino-3-hydroxycepham-4-carboxylic acid (2.18 g, purity 84.8%), trimethylsilylacetamide (10.5 g.), 2-methoxyimino-3,3-dimethoxy-4-bromobutyric acid (syn isomer, 3.24 g.), N,N-dimethylformamide (1.1 ml), phosphorus oxychloride (1.36 ml) and methylene chloride (50 ml.) were treated in a similar manner to that of Example 25 (1) to give 7-[2-methoxyimino-3,3-dimethoxy-4-bromobutyramido]-3-hydroxycepham-4-carboxylic acid (syn isomer, 3.75 g.).

reactant | 7-Amino-3-hydroxycepham-4-carboxylic acid | 2.18 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
reactant | trimethylsilylacetamide | 10.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-methoxyimino-3,3-dimethoxy-4-bromobutyric acid | 3.24 g | CON=C(C(=O)O)C(CBr)(OC)OC | C7H12BrNO5
reactant | phosphorus oxychloride | 1.36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 1.1 ml | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-3,3-dimethoxy-4-bromobutyramido]-3-hydroxycepham-4-carboxylic acid | 3.75 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)(OC)OC | C14H20BrN3O8S
